US05543550
If the isomerically pure ethyl 5-fluoro-2-nitrobenzoate is replaced by aliquot parts of a correspondingly prepared, isomerically pure n-propyl 5-fluoro-2-nitrobenzoate, and the same procedure is employed, then the isomerically pure n-propyl 5-fluoroanthranilate is obtained in comparable yield and quality.

reactant | ethyl 5-fluoro-2-nitrobenzoate | FC=1C=CC(=C(C(=O)OCC)C1)[N+](=O)[O-] | C9H8FNO4
reactant | n-propyl 5-fluoro-2-nitrobenzoate | FC=1C=CC(=C(C(=O)OCCC)C1)[N+](=O)[O-] | C10H10FNO4
product | n-propyl 5-fluoroanthranilate | FC1=CC=C(C(C(=O)OCCC)=C1)N | C10H12FNO2
